US04082843
6-[3-(2,3-Epoxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone was reacted with phenylethylamine in a similar manner to that described in Example 1(ii) to give 6-[3-(2-hydroxy-3-phenethylaminopropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 6-[3-(2,3-Epoxypropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | O1C(COC=2C=C(C=CC2)C=2CCC(NN2)=O)C1 | C13H14N2O3
reactant | phenylethylamine | C1(=CC=CC=C1)CCN | C8H11N
product | 6-[3-(2-hydroxy-3-phenethylaminopropoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | OC(COC=1C=C(C=CC1)C=1CCC(NN1)=O)CNCCC1=CC=CC=C1 | C21H25N3O3
